US07202364B2
A mixture of 1.63 g (7 mmol) of N-(3-fluoro-2-naphthyl)carbamic acid ethyl ester, and 2.73 g of Selectfluor® (7.7 mmol) in 10 mL of trifluoroacetic acid is heated to 70° C. under an atmosphere of nitrogen for 4 hours. After cooling to room temperature, the mixture is concentrated in vacuo and 30 mL of ice water is added. The mixture is extracted 3 times with 40 mL of CH2Cl2. The combined organic layers are washed with 40 mL each of H2O, saturated aqueous NaHCO3, saturated brine, dried over MgSO4. Evaporation of the solvents gives a residue that is purified by flash chromatography on silica gel (50% CH2Cl2/hexane) to give N-(1,3-difluoro-2-naphthyl)carbamic acid ethyl ester, which is hydrolyzed to 1,3-difluoro-2-aminonaphthalene under conditions described above.

reactant | N-(3-fluoro-2-naphthyl)carbamic acid ethyl ester | 7 mmol, 1.63 g | C(C)OC(NC1=CC2=CC=CC=C2C=C1F)=O | C13H12FNO2
reactant | Selectfluor | 2.73 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-(1,3-difluoro-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=C(C2=CC=CC=C2C=C1F)F)=O | C13H11F2NO2
